US08957070B2
7-[Methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylic acid
A mixed solution of ethyl 1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylate (0.75 g), 6N hydrochloric acid (15 mL), tetrahydrofuran (4 mL) and ethanol (16 mL) was stirred at 80° C. for 18 hr. The reaction solution was concentrated under reduced pressure. The obtained residue was diluted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained colorless solid was dissolved in a mixed solution of tetrahydrofuran (10 mL) and methanol (10 mL). aqueous solution (5 mL) of 85% potassium hydroxide (0.35 g) was added, and the mixture was stirred at room temperature for 18 hr. Aqueous citric acid solution was added to the reaction solution, and the mixture was extracted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (0.65 g, yield 100%) as pale-pink crystals. The obtained crystals were washed with ethyl acetate-hexane to give colorless prism crystals. MS:421 (MH+). melting point 245-246° C.

reactant | ethyl 1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylate | 0.75 g | COCN1C(=CC2=CC(=CC(=C12)N(S(=O)(=O)C=1SC=CC1)C)OC(F)(F)F)C(=O)OCC | C19H19F3N2O6S2
reactant | hydrochloric acid | 6N, 15 mL | Cl | ClH
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethanol | 16 mL | C(C)O | C2H6O
product | 7-[Methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylic acid | 0.65 g, yield 100% | CN(C=1C=C(C=C2C=C(NC12)C(=O)O)OC(F)(F)F)S(=O)(=O)C=1SC=CC1 | C15H11F3N2O5S2
